US05206257
A mixture of 2-(2,6-dichloro-4-trifluoromethylphenyl)-4-methylimidazole (1.0 g, 0.003 mol), nitric acid (70% w /w, 1 ml) and sulphuric acid (98% w /w, 1 ml) was stirred and heated at 75° C. for 4 hours then at 100° C. for 2 hours. After cooling the reaction mixture was added to a mixture of ice and water (20 ml) and the precipitated solid was filtered off. Recrystallisation from toluene gave 2-(2,6-dichloro-4-trifluoromethylphenyl)-4-methyl-5-nitroimidazole (0.66 g), m.p. 316.5°-317.5° C., as a white solid.

reactant | 2-(2,6-dichloro-4-trifluoromethylphenyl)-4-methylimidazole | 0.003 mol, 1.0 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)C=1NC=C(N1)C | C11H7Cl2F3N2
reactant | nitric acid | 1 ml | [N+](=O)(O)[O-] | HNO3
reactant | sulphuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 20 ml | O | H2O
product | 2-(2,6-dichloro-4-trifluoromethylphenyl)-4-methyl-5-nitroimidazole | 0.66 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)C=1NC(=C(N1)C)[N+](=O)[O-] | C11H6Cl2F3N3O2
